US08026260B2
To a solution of difluoro[4-(methoxycarbonyl)phenyl]acetic acid (0.12 g, 0.52 mmol) and 2-methoxybenzohydrazide (0.13 g, 0.78 mmol) in methylene chloride (2 mL) was added 3-{[(ethylimino)methylene]amino}-N,N-dimethylpropan-1-aminium chloride (0.2 g, 1.04 mmol). The resulting solution was stirred at ambient temperature for 16 hours. The reaction was purified by flash chromatography (0-4% methanol/methylene chloride) to give methyl 4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoate as a white solid. ESIMS calcd 379.1 (M++H), found 379.1 (M++H).

reactant | difluoro[4-(methoxycarbonyl)phenyl]acetic acid | 0.52 mmol, 0.12 g | FC(C(=O)O)(C1=CC=C(C=C1)C(=O)OC)F | C10H8F2O4
reactant | 2-methoxybenzohydrazide | 0.78 mmol, 0.13 g | COC1=C(C(=O)NN)C=CC=C1 | C8H10N2O2
reactant | 3-{[(ethylimino)methylene]amino}-N,N-dimethylpropan-1-aminium chloride | 1.04 mmol, 0.2 g | [Cl-].C(C)N=C=NCCC[NH+](C)C
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoate | FC(C(=O)NNC(C1=C(C=CC=C1)OC)=O)(F)C1=CC=C(C(=O)OC)C=C1 | C18H16F2N2O5
